US07842685B2
To a solution of methyl 1-((3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)-3-hydroxyazetidine-3-carboxylate (0.0334 g, 0.068 mmol) at 0° C. in anhydrous DCM was added 1.0 mL was added DAST (0.011 mL, 0.082 mmol). The reaction mixture was stirred for 10 min. at which time the reaction was quenched carefully with water and extracted with DCM. The organics were dried over magnesium sulfate and concentrate in vacuo. Purification by silica gel afford methyl 3-fluoro-1-((3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate. MS (ESI) m/z: Calculated 491.2; Observed: 492.0 (M++1).

reactant | methyl 1-((3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)-3-hydroxyazetidine-3-carboxylate | 0.068 mmol, 0.0334 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CN1CC(C1)(C(=O)OC)O | C27H24FN3O3S
reactant | DAST | 0.082 mmol, 0.011 mL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl 3-fluoro-1-((3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)azetidine-3-carboxylate | FC1(CN(C1)CC1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F)C(=O)OC | C27H23F2N3O2S
